US08629157B2
Step 3: Synthesis of 1-isopropyl-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
A solution of acetone and (S)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide; hydrochloride (0.2 g; 0.843 mmol) in dichloroethane (3 mL) with several drops of acetic acid and approximately 10 equivalents of sodium bisulfate is stirred for 30 minutes followed by the addition of sodium cyanoborohydride (0.079 g; 1.265 mmol). The mixture is stirred overnight at room temperature. After this time, the mixture is diluted with ethyl acetate and washed with aqueous sodium bicarbonate solution and brine. The organics are dried (Na2SO4), filtered and concentrated in vacuo to afford crude material. Excess starting material is removed using polystryrene bound-isocyante resin (500 mg: 1.51 mmol/g) in dichloromethane (5 mL) for several hours. Crude product is eluted from resin using methylene chloride and tetrahydrofuran. The filtrate is concentrated and final purification done using reverse phase preparative HPLC to afford title compound. ESI m/z 280 [M+H]+

reactant | (S)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1NCCC1 | C12H19N3O2
reactant | hydrochloride | 0.843 mmol, 0.2 g | Cl | ClH
reactant | sodium bisulfate | approximately 10 equivalents | S([O-])(O)(=O)=O.[Na+]
reactant | sodium cyanoborohydride | 1.265 mmol, 0.079 g | C(#N)[BH3-].[Na+]
reactant | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | several drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | 1-isopropyl-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)C1N(CCC1)C(C)C | C15H25N3O2
